US07217723B2
7-Oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonic acid methyl-(2-pyridine-4-yl-ethyl)-amide
From methyl-(2-pyridine-4-yl-ethyl)-amine (the compound of Preparation Example 16) (82 mg) and 7-oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonyl chloride (the compound of Preparation Example 7) (150 mg), the title compound (100 mg) was obtained as a colorless oily matter, in the same way as Preparation Example 41.

reactant | methyl-(2-pyridine-4-yl-ethyl)-amine | CNCCC1=CC=NC=C1 | C8H12N2
reactant | 7-oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonyl chloride | O=C1CCCC2=C1SC=C2S(=O)(=O)Cl | C8H7ClO3S2
product | 7-Oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonic acid methyl-(2-pyridine-4-yl-ethyl)-amide | 100 mg | CN(S(=O)(=O)C=1C2=C(SC1)C(CCC2)=O)CCC2=CC=NC=C2 | C16H18N2O3S2
